US07049313B2
[2-(2-Methoxy-phenylsulfanyl)-phenyl]-acetic acid
2-Methoxythiophenol (2.8 g, 20 mmol) was added to a solution of potassium hydroxide (4.6 g, 80 mmol) in water (50 ml) and the mixture was degassed for 15 minutes. 2-Iodophenylacetic acid (5.24 g, 20 mmol) and copper bronze (64 mg, 1 mmol) were then added to the reaction mixture, which was refluxed overnight. The solution was cooled down, filtered and the precipitate washed with water (50 ml). The filtrate was acidified with conc HCl (pH 1), extracted with dichloromethane (3×100 ml). The organics were combined, extracted with saturated brine, dried over sodium sulphate and evaporated in vacuo to give the title compound as a pale brown oil which solidified overnight. The compound was used without any further purification (5.10 g, 93%).

reactant | 2-Methoxythiophenol | 20 mmol, 2.8 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium hydroxide | 80 mmol, 4.6 g | [OH-].[K+]
reactant | 2-Iodophenylacetic acid | 20 mmol, 5.24 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
solvent | water | 50 ml | O | H2O
catalyst | copper bronze | 1 mmol, 64 mg | [Cu] | Cu
product | [2-(2-Methoxy-phenylsulfanyl)-phenyl]-acetic acid | COC1=C(C=CC=C1)SC1=C(C=CC=C1)CC(=O)O | C15H14O3S
